US05446110
3.9 g of neopentyl glycol carbonate was dissolved in 5.0 g of n-hexanol and0.075 g of p-toluenesulfonic acid was added to the solution. The mixture was heated at 100° C. for 20 minutes. After the reaction, the mixture was evaporated in vacuo to remove unreacted n-hexanol and then filtered to remove unreacted neopentyl glycol carbonate. n-Hexyl 2,2-dimethyl-3-hydroxypropyl carbonate was obtained.

reactant | neopentyl glycol carbonate | 3.9 g | C(O)(=O)OCC(C)(CO)C | C6H12O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | n-hexanol | 5.0 g | C(CCCCC)O | C6H14O
product | n-Hexyl 2,2-dimethyl-3-hydroxypropyl carbonate | C(OCCCCCC)(OCC(CO)(C)C)=O | C12H24O4
